US05219871
Preparation of 2,2-diphenyl-5-[N-methyl-N-{2-(pyridin-2-yl)ethyl}amino]pentanamide
A solution containing 2,2-diphenyl-5-methylaminopentanamide (2.0 g-see Preparation 3) and 2-vinylpyridine (1.1 ml) in dioxan (15 ml) was heated under reflux for 48 hours. The mixture was concentrated in vacuo and the residue partitioned between dichloromethane (50 ml) and water (50 ml). The dichloromethane layer was dried (MgSO4) and concentrated in vacuo to give a solid which was purified by column chromatography eluting with hexane containing dichloromethane (50% up to 100%) and then with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil which was crystallised from acetonitrile, yield 0.5 g, m.p. 134°-136°.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 2.0 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 2-vinylpyridine | 1.1 ml | C(=C)C1=NC=CC=C1 | C7H7N
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 2,2-diphenyl-5-[N-methyl-N-{2-(pyridin-2-yl)ethyl}amino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(CCC1=NC=CC=C1)C)C1=CC=CC=C1 | C25H29N3O
